Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Ciprofloxacin / Cephalexin / 
Penicillins
 
Attending: ___.
 
Chief Complaint:
myalgia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with HTN, history of RA vs. lupus overlap with 
psoriasis, severe scoliosis, osteoporosis, recurrent foot 
ulcerations and osteomyelitis s/p amputations presents from 
___ for general weakness and malaise. Patient reports 
that since she got her pneumovax two days ago, she has been 
feeling unwell. She reports left arm and shoulder pain (where 
she got that vaccination as well as a flu shot the week prior) 
that was preventing her from getting out of bed. She reports 
diffuse myalgias and general malaise and fatigue. She denies 
fevers or chills. No new cough, chest pain or shortness of 
breath. She denies congestion or rhinorrhea. No dysuria, 
diarrhea or constipation. She denies nausea and vomiting, but 
notes decreased po intake for the last day. She also awoke late 
yesterday and took her medications later. She dropped her 
nifedipine and her nurse didn't find it until later in the 
afternoon and she decided to go ahead and take it.
She is typically not very active at baseline, but does get out 
of bed to go to meals in the dining hall. She felt she did not 
have the energy to do this yesterday.
In the ED, she was found to be hypotensive with initial Vitals: 
98.5 60 82/43 20 95% ra
- EKG: sinus at 101, LVH, no acute st-t changes, but chem 7 c/f 
dehydration with elevated BUN
- she was bolused 2L NS and treated with tylenol
- no signs of infection with negative UA and CXR
On arrival, her vitals were 98.2 96/45 71 18 92% on RA. She 
reports feeling improved and able to sit up in bed. She was 
reluctant to pursue any further work-up as she was starting to 
feel better.

 
Past Medical History:
- RA
- SLE
- HTN
- osteoporosis
- AI
- PVD
- scoliosis
- h/o humerus fx - unrepaired from ___ years agi
- recurrent foot ulceration c/b osteomyelitis s/p multiple toe 
amputations most recent on the left foot in ___.
- Pulmonary hypertension
- CKD (chronic kidney disease), stage II
 
Social History:
___
Family History:
sister with hypertension
 
Physical Exam:
Admission:
Vitals- 98.2 96/45 71 18 92% on RA
General- Cachetic with temporal wasting, alert, no acute 
distress
HEENT- Sclera anicteric, MMM, oropharynx clear with partial 
dentures in place
Neck- supple, distended EJ, JVP to midneck at 45degrees , no LAD
Lungs- Bibasilar crackles
CV- Regular rate and rhythm, with ectopy, no murmurs, rubs, 
gallops
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext- right upper arm with displaced humeral fracture (chronic), 
left shoulder with effusion, mild warm, no erythema. no pain 
with passive motion.
hands with ulnar deviation. feet contracted toe s/p multiple toe 
amputations. left foot with dressings c/d/i. onychomycosis. 2+ 
pulses
Neuro- CNs2-12 intact, motor function grossly normal

Discharge:
Vitals- 97.9 113/51 62 20 93% on RA
General- Kyphotic elderly woman with cachexia and mulitple bony 
abnormalities, alert, interactive, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear
Neck- supple, distended EJ, JVP to midneck at 45degrees, no LAD
Lungs- CTAB
CV- RRR, with ectopy, no m/r/g
Abdomen- soft, non-tender, non-distended, bowel sounds present
Ext- right upper arm with displaced humeral fracture (chronic), 
L shoulder slightly warmer and more swollen than R, no pain with 
passive motion.
Feet contracted toe s/p multiple toe amputations. L foot with 
dressings c/d/i. Neuro- CNs2-12 intact, motor function grossly 
normal

 
Pertinent Results:
___ 09:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 09:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:00PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 07:25PM BLOOD WBC-11.1*# RBC-4.00* Hgb-11.7* Hct-36.3 
MCV-91 MCH-29.3 MCHC-32.3 RDW-14.0 Plt ___
___ 07:25PM BLOOD Glucose-120* UreaN-33* Creat-0.8 Na-137 
K-4.0 Cl-98 HCO3-27 AnGap-16
___ 08:07PM BLOOD Lactate-2.0

Discharge:
___ 08:45AM BLOOD WBC-6.8 RBC-3.84* Hgb-11.7* Hct-36.5 
MCV-95 MCH-30.4 MCHC-31.9 RDW-14.2 Plt ___
___ 08:45AM BLOOD Glucose-67* UreaN-26* Creat-0.5 Na-136 
K-3.5 Cl-107 HCO3-19* AnGap-14
___ 08:45AM BLOOD CK(CPK)-49
___ 08:45AM BLOOD Calcium-7.9* Phos-2.4* Mg-1.6

Micro: 
___ BLOOD CULTURE Blood Culture, Routine-FINAL
Imaging:
CXR (___):
IMPRESSION:
1. Severe thoracolumbar scoliosis.
2. Subtle opacity projecting over the left mid lung as above, 
may be artifactual due to external artifact; however, suggest 
oblique views  ornon-urgent chest CT to assess for underlying 
lesion.

 
Brief Hospital Course:
ASSESSMENT:
___ yo F with HTN, history of RA vs. lupus overlap with 
psoriasis, severe scoliosis, osteoporosis, recurrent foot 
ulcerations and osteomyelitis s/p amputations presents from 
___ for general weakness and malaise.

# Hypotension: BP 82/43 on arrival to ___ ED. No symptoms or 
history to suggest infection/sepsis (she is on chronic 
immunosuppression). Infectious workup including CXR and UA 
negative, remained afebrile. Blood culture collected ___, 
pending at discharge, resulted negative on ___. Thought to 
be dehydration ___ poor PO intake leading to hypovolemia and 
malaise. Of note, she also took her nifedipine in at 3pm rather 
than at breakfast. She responded well to IV fluid resuscitation 
and quickly began to feel better with resolution of all 
symptoms. Nifedipine and lisinopril held during inpatient stay, 
restarted on discharge.An am cortisol was 30.8 and there was no 
evidence of adrenal suppression.
 
# RA/SLE: Continued home low-dose prednisone and plaquenil

# OA: Has had several R toe amputations ___ severe 
osteoarthritis. Continued dressing changes of R foot, wound site 
appeared c/d/i. She will continue to follow-up with her 
outpatient rheumatologist. She also missed an appointment with 
orthopedics physician, ___ has been rescheduled. 

# GERD: Continued home omeprazole.

TRANSITIONAL:
- continued all admission meds upon discharge
-f/u with PCP, ___ and orthopedic surgeon 
as scheduled. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Calcium Carbonate 500 mg PO BID 
5. Acetaminophen 650 mg PO Q6H:PRN pain 
6. PredniSONE 5 mg PO EVERY OTHER DAY 
7. NIFEdipine CR 30 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Hydroxychloroquine Sulfate 200 mg PO DAILY 
10. Eye-Vite (vit A,C & E-B2-niac-lut-mn-glu) ___ 
unit-mg-unit-mg oral daily 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Hydroxychloroquine Sulfate 200 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 5 mg PO EVERY OTHER DAY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Eye-Vite (vit A,C & E-B2-niac-lut-mn-glu) ___ 
unit-mg-unit-mg oral daily 
10. Lisinopril 10 mg PO DAILY 
11. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
Hypovolemia
muscle pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
 
It was a pleasure taking care of you at ___. As you 
know, you came to the hospital because of joint pain and 
weakness which began after you got a pneumovax shot in your left 
arm. When you got to the emergency room they found that your 
blood pressure was low. Based on physical exam and lab studies, 
it was determined that you were dehydrated. Other studies showed 
no signs of infection in your lungs or in your urine. You 
received IV fluids and began to feel better. We didn't give you 
your blood pressure medications while you were in the hospital, 
and your blood pressure improved. You were able to walk without 
feeling lightheaded and we were able to discharge you back to 
___. 
 
Followup Instructions:
___